US07572823B2
5-Chloro-6-fluoro-1H-indole-7-carboxylic acid [2-(3-trifluoromethyl-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amide was prepared in analogy to example 1 from 5-chloro-6-fluoro-1H-indole-7-carboxylic acid and [2-(3-trifluoromethyl-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine. MS (ISP) 547.3/549.4 (100/33) (M+H)+.

reactant | 5-chloro-6-fluoro-1H-indole-7-carboxylic acid | ClC=1C=C2C=CNC2=C(C1F)C(=O)O | C9H5ClFNO2
reactant | [2-(3-trifluoromethyl-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amine | FC(C=1C=C(C=CC1)CCNCC1=CC=C(C=C1)[Si](C)(C)C)(F)F | C19H24F3NSi
product | 5-Chloro-6-fluoro-1H-indole-7-carboxylic acid [2-(3-trifluoromethyl-phenyl)-ethyl]-(4-trimethylsilanyl-benzyl)-amide | FC(C=1C=C(C=CC1)CCN(C(=O)C=1C(=C(C=C2C=CNC12)Cl)F)CC1=CC=C(C=C1)[Si](C)(C)C)(F)F | C28H27ClF4N2OSi
